US07691892B2
a) 1-[2-(3-chloro-phenyl)-2H-tetrazol-5-yl-ethanol
2-(3-Chloro-phenyl)-2H-tetrazole-5-carbaldehyde (75.6 mg, 0.362 mmol) was dissolved in THF (2 mL) under argon and the flask was immersed in ice. Methyl magnesium bromide (1M solution/butyl ether 0.51 mL, 0.507 mmol) was added dropwise while the reaction was cooled in ice. After fifteen minutes at 0° C., the ice bath was removed and the reaction was allowed to stir at room temperature for two hours. 1M Hydrochloric acid was added to quench the reaction and an aqueous workup was done extracting with ethyl acetate three times. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated. The crude product was purified by column chromatography (3% MeOH/CH2Cl2) to yield the title compound as a clear oil (62.4 mg, 77%). 1H NMR (CDCl3) δ (ppm): 8.18 (s, 1H), 8.06 (m, 1H), 7.50 (m, 2H), 5.32 (m, 1H), 2.69 (d, 1H), 1.76 (d, 3H).

reactant | 2-(3-Chloro-phenyl)-2H-tetrazole-5-carbaldehyde | 0.362 mmol, 75.6 mg | ClC=1C=C(C=CC1)N1N=C(N=N1)C=O | C8H5ClN4O
reactant | Methyl magnesium bromide | 0.507 mmol, 1M, 0.51 mL | C[Mg]Br
reactant | butyl ether | 0.507 mmol, 0.51 mL | C(CCC)OCCCC | C8H18O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-(3-chloro-phenyl)-2H-tetrazol-5-yl-ethanol | 62.4 mg, 77% | ClC=1C=C(C=CC1)N1N=C(N=N1)C(C)O | C9H9ClN4O
